US05610293
B. Synthesis of trans-1,2-Bis(chloroacetamido)cyclohexane
A 12 liter three-neck flask equipped with a magnetic stirbar and two 1 liter dropping funnels was charged with 1,2-diaminocyclohexane (35.0 g, 0.310 mol) dissolved in chloroform (375 ml) and water (185 ml). The two dropping funnels were charged individually with chloroacetyl chloride (75 ml, 0.94 mol) in chloroform (440 ml) and potassium carbonate (120.5 g, 0.87 mol) in water (4 1), added in four portions during the addition. The flask was cooled in an ice salt bath and addition of the reagents was carried out over 2 h. The ice salt bath was removed, water (600 ml) was added, and the reaction mixture was stirred for 2.5 h. The mixture was separated and the water layer was extracted with chloroform several times. The combined chloroform layers were washed with water and then brine. The organic layer was dried (sodium sulfate) and concentrated in vacuo to yield an off-white solid. The solid was washed with ether to yield 55.32 g (67% yield) of a white solid after drying in vacuo: mp 202°-3° C.; 1H NMR (CDCl3) δ 1.27-1.50 (m, 4 H), 1.75-1.95 (m, 2 H), 2.03-2.20 (m, 2 H), 3.72-3.87 (m, 2 H), 4.05 (s, 4 H), 6.81 (br s, 2 H).

reactant | 1,2-diaminocyclohexane | 0.310 mol, 35.0 g | NC1C(CCCC1)N | C6H14N2
reactant | chloroacetyl chloride | 0.94 mol, 75 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | potassium carbonate | 0.87 mol, 120.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroform | 375 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 440 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 185 ml | O | H2O
product | trans-1,2-Bis(chloroacetamido)cyclohexane | 55.32 g, 67% yield | ClCC(=O)N[C@H]1[C@@H](CCCC1)NC(CCl)=O | C10H16Cl2N2O2
